US05087764
Preparation of 4-cyano-2,3-difluorophenol
A solution of 0.1 mol of 4-ethoxy-2,3-difluoro benzonitrile in 100 ml of toluene is slowly added dropwise at room temperature in the course of 30 minutes to a solution of 0.1 mol of aluminium(III) chloride in 100 ml of toluene. The mixture is subsequently heated to boiling for 5 hours and worked up as customary after cooling, m.p.: 145° C.

reactant | 4-ethoxy-2,3-difluoro benzonitrile | 0.1 mol | C(C)OC1=C(C(=C(C#N)C=C1)F)F | C9H7F2NO
reactant | aluminium(III) chloride | 0.1 mol | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-cyano-2,3-difluorophenol | C(#N)C1=C(C(=C(C=C1)O)F)F | C7H3F2NO
